US07547710B2
Trifluoroacetic acid (3 ml) was added to tert-butyl N-[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]glycinate (0.52 g, 1.2 mmol) and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and ethyl acetate (50 ml), tetrahydrofuran (50 ml) and saturated aqueous sodium hydrogen carbonate (20 ml) were added to the residue. Di-tert-butyl dicarbonate (0.41 ml, 1.8 mmol) was added to the obtained mixture and the mixture was stirred at room temperature for 3 hrs. The organic layer was separated, washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was crystallized from diisopropyl ether to give N-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]glycine (0.47 g, yield 83%) as a yellow powder.

reactant | Trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl N-[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]glycinate | 1.2 mmol, 0.52 g | NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)NCC(=O)OC(C)(C)C)CC(C)C | C27H35N3O2
reactant | Di-tert-butyl dicarbonate | 1.8 mmol, 0.41 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | N-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]glycine | 0.47 g, yield 83% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)NCC(=O)O)CC(C)C | C28H35N3O4
